US06194450B1
(c) Preparation of 2-hydroxy-4-iodobenzyl alcohol
A 1M solution of borane in THF was added dropwise at 0° C. to a solution of 2-hydroxy-4-iodobenzoic acid (13.2 g, 0.05 mol) in THF (100 ml). The mixture was stirred for 6 hours at room temperature and 20 ml of a solution of THF and water (1:1) were then added. After concentration on a rotary evaporator under vacuum at 40° C. The residue was extracted with ethyl acetate. The organic phase was washed with water, dried over anhydrous magnesium sulfate and concentrated on a rotary evaporator under vacuum at 40° C. The product was purified by flash chromatography on a column of silica (60% EtOAc, 40% heptane). Its properties were as follows:

reactant | borane | B | BH3
reactant | 2-hydroxy-4-iodobenzoic acid | 0.05 mol, 13.2 g | OC1=C(C(=O)O)C=CC(=C1)I | C7H5IO3
reactant | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 2-hydroxy-4-iodobenzyl alcohol | OC1=C(CO)C=CC(=C1)I | C7H7IO2
